US07507748B2
Preparation of 7-{[2-(isoquinolin-7-ylamino)-pyridine-3-carbonyl]-amino}-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a mixture of 7-[(2-chloro-pyridine-3-carbonyl)-amino]-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (20.8 g, 50 mmol, 1.0 eq.), 7-aminoisoquinoline (7.2 g, 50 mmol, 1.0 eq.), Pd2(dba)3 (915 mg, 1 mmol, 0.02 eq), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (CAS# 213697-53-1, Strem Chemicals cat no. 15-1145; 785 mg, 2 mmol, 0.04 eq) under N2 in a 250 mL pressure reaction vessel was added 1.0 M LiNTMS2 THF solution (120 mL, 120 mmol, 2.4 eq.). The reaction vessel was sealed with a Teflon screwcap and the mixture was stirred at 70° C. for 17 h. The mixture was then cooled to RT. 100 mL of water was added to the mixture and the mixture was extracted with 500 mL of EtOAc. The organic layer was washed with sat. NH4Cl solution, 1M NaHPO4 solution (4×200 mL) then dried over MgSO4. After filtration and concentration, the crude was purified through a silica gel column chromatography, eluting with CH2Cl2/EtOAc. The desired title compound was obtained as a yellow solid. MS (ES+): 524 (M+H)+. Calc'd for C31H33N5O3—523.26

reactant | 7-[(2-chloro-pyridine-3-carbonyl)-amino]-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 50 mmol, 20.8 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)NC(=O)C=1C(=NC=CC1)Cl | C22H26ClN3O3
reactant | 7-aminoisoquinoline | 50 mmol, 7.2 g, 1.0 eq. | NC1=CC=C2C=CN=CC2=C1 | C9H8N2
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 2 mmol, 785 mg, 0.04 eq | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | Pd2(dba)3 | 1 mmol, 915 mg, 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 100 mL | O | H2O
product | 7-{[2-(isoquinolin-7-ylamino)-pyridine-3-carbonyl]-amino}-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)NC(=O)C=1C(=NC=CC1)NC1=CC=C2C=CN=CC2=C1 | C31H33N5O3
